US07101899B1
4-[2-methyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine
Bromine (1.0 mL, 18 mmol) was added to a solution of 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone (6.0 g, 18 mmol) in acetic acid (50 mL) and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated. The residue was dissolved in N,N-dimethylformamide (50 mL) and to the solution was added thioacetamide (1.4 g, 19 mmol) and the resulting mixture was stirred at room temperature for 20 hours. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate (200 mL) and extracted with ethyl acetate. The extract was dried and the solvent was distilled off. 2N-hydrochloric acid (30 mL) was added to the resulting solid and the mixture was stirred at 100° C. for 1 hour. After the reaction mixture was cooled to room temperature, the mixture was basified with a 2N aqueous solution of sodium hydroxide (200 mL) and a saturated aqueous solution of sodiumhydrogen carbonate. The resulting mixture was extracted with ethyl acetate and the extract was washed with water. The extract was dried and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain 2.8 g of the title compound (yield 54%).

reactant | Bromine | 18 mmol, 1.0 mL | BrBr | Br2
reactant | 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone | 18 mmol, 6.0 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C19H22N2O3
reactant | thioacetamide | 19 mmol, 1.4 g | C(C)(=S)N | C2H5NS
reactant | sodium hydrogencarbonate | 200 mL | C(O)([O-])=O.[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-[2-methyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 2.8 g, yield 54% | CC=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C16H15N3S
